US07230001B1
γ-oxo-1H-benzimidazol-5-butanoic acid
Prepared analogously to Example 5 from methyl γ-oxo-1H-benzimidazol-5-butanoate, lithium hydroxide and water in the presence of tetrahydrofuran in a yield of 78% of theoretical. Colourless crystals, m.p. 251–255° C. (decomp.).

reactant | methyl γ-oxo-1H-benzimidazol-5-butanoate | O=C(CCC(=O)OC)C1=CC2=C(NC=N2)C=C1 | C12H12N2O3
reactant | lithium hydroxide | [OH-].[Li+]
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | γ-oxo-1H-benzimidazol-5-butanoic acid | yield of 78% | O=C(CCC(=O)O)C1=CC2=C(NC=N2)C=C1 | C11H10N2O3
